US07696229B2
A solution of KOH (1.0 g, 17.68 mmol) in methanol (20 mL) was added to 1H-indole-5-carbonitrile (1.0 g, 6.96 mmol). 1-methylpiperidin-4-one (1.0 g, 8.75 mmol) was then added dropwise with stirring, while cooling to 0-5° C. and the resulting solution was stirred for 1 hour at 50° C. The reaction mixture was then cooled to room temperature, concentrated, and the residue was purified by column chromatography using ethanol solvent system to give 200 mg of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carboxamide as a white solid.

reactant | KOH | 17.68 mmol, 1.0 g | [OH-].[K+]
reactant | 1H-indole-5-carbonitrile | 6.96 mmol, 1.0 g | N1C=CC2=CC(=CC=C12)C#N | C9H6N2
reactant | 1-methylpiperidin-4-one | 8.75 mmol, 1.0 g | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 20 mL | CO | CH4O
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carboxamide | 200 mg | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)C(=O)N | C15H17N3O
